US07271153B2
To a solution of 2-(2,3,4,6-tetra-O-acetyl-β-D-gluco-pyranosyloxy)-3-[4-(2-methoxymethyloxyethyl)benzyl]-4,6-dimethylpyridine (0.13 g) in methanol (4.0 mL) was added 2 mol/L aqueous sodium hydroxide solution (0.50 mL), and the mixture was stirred for 30 minutes at room temperature. After the reaction mixture was concentrated under reduced pressure, the residue was purified by preparative thin layer chromatography on silica gel (developing solvent: dichloromethane/methanol=9/1) to give 2-(β-D-glucopyranosyloxy)-3-[4-(2-methoxy-methyloxyethyl)benzyl]-4,6-dimethylpyridine (0.086 g).

reactant | 2-(2,3,4,6-tetra-O-acetyl-β-D-gluco-pyranosyloxy)-3-[4-(2-methoxymethyloxyethyl)benzyl]-4,6-dimethylpyridine | 0.13 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NC(=CC(=C1CC1=CC=C(C=C1)CCOCOC)C)C | C32H41NO12
reactant | sodium hydroxide | 2 mol/L, 0.50 mL | [OH-].[Na+]
reactant | methanol | 4.0 mL | CO | CH4O
product | 2-(β-D-glucopyranosyloxy)-3-[4-(2-methoxy-methyloxyethyl)benzyl]-4,6-dimethylpyridine | 0.086 g | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NC(=CC(=C1CC1=CC=C(C=C1)CC(OC)OC)C)C | C24H33NO8
